### PR TITLE
Category of algebras of a monad

### PR DESCRIPTION
**Pull request by tamaravonglehn**
Definition of category of algebras, adjunction between algebras and base category.
Following FunctorAlgebras.v and LModules.v

### CODE REVIEW

File: UniMath/CategoryTheory/Monads/MonadAlgebras.v [hunk 1]
```diff
@@ -0,0 +1,232 @@
...
+  := (precategory_Alg_ob_mor,, Algebra_mor_id,, Algebra_mor_comp).
+
+End Algebra_precategory_data.
+
+
+(** Definition of the category MonadAlg of algebras for T. Requires that C is a category. *)
+
+Section Algebra_category.
+
+Context {hs : has_homsets C}.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads/MonadAlgebras.v]: It might be easier to assume (C : category) here. (This would require closing the section `Algebras` before, and opening a new one.)

**Comment by benediktahrens** [comment]
lgtm modulo the small comments

File: UniMath/CategoryTheory/Monads/MonadAlgebras.v [hunk 2]
```diff
@@ -0,0 +1,234 @@
...
+
+Definition Algebra_multlaw (X : Algebra) : μ T X · Alg_map X = #T (Alg_map X) · Alg_map X
+  := pr2 (pr2 X).
+
+Definition free_Algebra (X : C) : Algebra.
+Proof.
+  use tpair.
+  - exists (T X).
+    exact (μ T X).
+  - split.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads/MonadAlgebras.v]: From here on the construction could be made opaque using the `abstract (...)` tactical; this could make type checking more efficient (or possible at all) in later code. It could also prevent some computation to happen, though this is unlikely to be an issue here.

File: UniMath/CategoryTheory/Monads/MonadAlgebras.v [hunk 3]
```diff
@@ -0,0 +1,234 @@
...
+Coercion mor_from_Algebra_mor (X Y : Algebra) (f : Algebra_mor X Y)
+  : X --> Y := pr1 f.
+
+Definition Algebra_mor_commutes (X Y : Algebra) (f : Algebra_mor X Y)
+  : Alg_map X · f = #T f · Alg_map Y := pr2 f.
+
+Definition Algebra_mor_id (X : Algebra) : Algebra_mor X X.
+Proof.
+  exists (identity X).
+  unfold is_Algebra_mor.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads/MonadAlgebras.v]: From here on the construction could be made opaque using the `abstract (...)` tactical.

File: UniMath/CategoryTheory/Monads/MonadAlgebras.v [hunk 4]
```diff
@@ -0,0 +1,234 @@
...
+  rewrite functor_id, id_right, id_left.
+  apply idpath.
+Defined.
+
+Definition Algebra_mor_comp (X Y Z : Algebra) (f : Algebra_mor X Y) (g : Algebra_mor Y Z)
+  : Algebra_mor X Z.
+Proof.
+  exists (f · g).
+  unfold is_Algebra_mor.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads/MonadAlgebras.v]: From here on the construction could be made opaque using the `abstract (...)` tactical.

File: UniMath/CategoryTheory/Monads/MonadAlgebras.v [hunk 5]
```diff
@@ -0,0 +1,234 @@
...
+
+Lemma is_precategory_precategory_Alg_data : is_precategory (precategory_Alg_data T).
+Proof.
+  apply mk_is_precategory; intros;
+  apply Algebra_mor_eq.
+  - apply id_left.
+  - apply id_right.
+  - apply assoc.
+  - apply assoc'.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads/MonadAlgebras.v]: This could be made opaque using `Qed.` instead of `Defined.`

File: UniMath/CategoryTheory/Monads/MonadAlgebras.v [hunk 6]
```diff
@@ -0,0 +1,234 @@
...
+
+Lemma has_homsets_MonadAlg : has_homsets MonadAlg.
+Proof.
+  intros X Y.
+  apply (isofhleveltotal2 2).
+  - apply homset_property.
+  - intro f.
+    apply isasetaprop.
+    apply homset_property.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads/MonadAlgebras.v]: This could be made opaque using `Qed.` instead of `Defined.`.

File: UniMath/CategoryTheory/Monads/MonadAlgebras.v [hunk 7]
```diff
@@ -0,0 +1,234 @@
...
+  intros X Y f.
+  apply f.
+Defined.
+
+(* forgetful functor from MonadAlg T to its underlying category *)
+
+Definition forget_Alg : functor (MonadAlg T) C.
+Proof.
+  exists forget_Alg_data.
+  split; red; intros; apply idpath.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads/MonadAlgebras.v]: Maybe `abstract (...)`?

File: UniMath/CategoryTheory/Monads/MonadAlgebras.v [hunk 8]
```diff
@@ -0,0 +1,234 @@
...
+    apply (nat_trans_ax (μ T)).
+  - apply idpath.
+Defined.
+
+(* free T-algebra functor on C *)
+
+Definition free_Alg : functor C (MonadAlg T).
+Proof.
+  exists free_Alg_data.
+  split; red; intros.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monads/MonadAlgebras.v]: `abstract (...)` from here on?
